US08222417B2
Synthesis of 7-fluoro-1,2,3,4-tetrahydroquinoline
To a solution of 7-fluoro-2,3-dihydro-1H-quinolin-4-one obtained in Reference Example 3 (810 mg) in trifluoroacetic acid (10 ml), triethylsilane (3.9 ml) was added and stirred at room temperature for 3 days. The reaction mixture was adjusted to pH 10 to 12 by addition of 8M aqueous sodium hydroxide under ice cooling, and then extracted with chloroform. To the extracted organic layer, water and 12M aqueous hydrochloric acid were added to separate the aqueous layer. The separated aqueous layer was adjusted to pH 10 to 12 by addition of 8M aqueous sodium hydroxide, and then extracted with chloroform. The extracted organic layer was washed with brine, dried over anhydrous magnesium sulfate and then filtered to remove the desiccant, followed by distilling off the solvent under reduced pressure to give the titled compound, i.e., 7-fluoro-1,2,3,4-tetrahydroquinoline (530 mg) as a light-yellow powder.

reactant | 7-fluoro-2,3-dihydro-1H-quinolin-4-one | FC1=CC=C2C(CCNC2=C1)=O | C9H8FNO
reactant | sodium hydroxide | 8M | [OH-].[Na+]
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | triethylsilane | 3.9 ml | C(C)[SiH](CC)CC | C6H16Si
product | 7-fluoro-1,2,3,4-tetrahydroquinoline | 530 mg | FC1=CC=C2CCCNC2=C1 | C9H10FN
